US08871967B2
Cyclopropylmethyl 3-methylhex-2-enoate
Prepared from methyl 3-methylhex-2-enoate and cyclopropanemethanol according to the ester preparation method B described above. The Z and E isomer were separated by distillation under vacuum using a 35 cm Fischer Spaltrohr® column.

reactant | methyl 3-methylhex-2-enoate | CC(=CC(=O)OC)CCC | C8H14O2
reactant | cyclopropanemethanol | C1(CC1)CO | C4H8O
product | Cyclopropylmethyl 3-methylhex-2-enoate | CC(=CC(=O)OCC1CC1)CCC | C11H18O2
